US07795255B2
As depicted in Scheme 29 below, a solution of thiophosgen (1.2 molequivalents) in THF is added dropwise at room temperature to a stirred solution of the corresponding hydrazide, 2-(4-nitrophenyl)-4H-furo[3,2-b]pyrrole-5-carbohydrazide, prepared as described hereinabove (1.5 molequivalents), and Na2CO3 in dry THF. The mixture is stirred for 12 hours, and thereafter a mixture of ethyl acetate and water is added. The organic phase is washed with diluted HCl and brine and concentrated wider reduced pressure. The pure product, 2-(4-nitro-phenyl)-4-thioxo-5,6-dihydro-4H-1-oxa-3b,5,6-triaza-cyclopenta[a]inden-7-one, is obtained after purification by flash chromatography.

reactant | thiophosgen | C(=S)(Cl)Cl | CCl2S
reactant | 2-(4-nitrophenyl)-4H-furo[3,2-b]pyrrole-5-carbohydrazide | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=2NC(=CC2O1)C(=O)NN | C13H10N4O4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-nitro-phenyl)-4-thioxo-5,6-dihydro-4H-1-oxa-3b,5,6-triaza-cyclopenta[a]inden-7-one | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N3C(NNC(C3=C2)=O)=S)C1 | C14H8N4O4S
